US04571345
Methyltriphenylphosphonium bromide (346 g, 0.97 mole) was suspended in ether (1500 ml) and treated with n-butyllithium (2.5M in ether; 388 ml, 0.97 mole), followed by 2-t-butylcyclohexanone (50 g, 0.324 mole), following the procedure described in Example 12, Part A. The reaction mixture was heated under reflux for 2 days and then worked up in the usual manner. The crude product was fractionated to provide methylene-2-t-butylcyclohexane (22 g), which was pure by GC.

reactant | n-butyllithium | 0.97 mole, 2.5M, 388 ml | C(CCC)[Li]
reactant | 2-t-butylcyclohexanone | 0.324 mole, 50 g | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
catalyst | Methyltriphenylphosphonium bromide | 0.97 mole, 346 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 1500 ml | CCOCC | C4H10O
product | methylene-2-t-butylcyclohexane | 22 g | C=C1C(CCCC1)C(C)(C)C | C11H20
